Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
prednisone / nickel / Penicillins
 
Attending: ___.
 
Chief Complaint:
Basilar Apex Aneurysm 
 
Major Surgical or Invasive Procedure:
___ - Cerebral angiogram for stent-assisted coiling of 
basilar apex aneurysm

 
History of Present Illness:
___ year old female who had an outpatient workup for headaches 
and neck pain, found on imaging to have basilar apex aneurysm. 
Patient was referred to ___ neurosurgery for further 
evaluation and underwent diagnostic angiogram on ___ which 
confirmed the aneurysm. Therefore patient scheduled to proceed 
with angio for surgical intervention. 
 
Past Medical History:
- HTN
- Lumbar Herniated disc
- L ear surgery childhood
- chronic equilibrium issues 
- Anxiety
- Depression
- Attention Deficit Disorder 
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
ON DISCHARGE: 
===========

Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 4-3mm            EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
        TrapDeltoidBicepTricepGrip

     ___      ___

[x]Sensation intact to light touch

Angio Groin Site: 
[x]slight firm palable area, otherwise soft
[x]Palpable pulses

 
Pertinent Results:
Please refer to OMR for pertinent imaging and lab results. 
 
Brief Hospital Course:
#Basilar Apex Aneurysm 
Patient presented to pre-op area, was assessed by anesthesia and 
taken to the OR on ___ for elective stent-assisted coiling 
of basilar apex aneurysm. Patient tolerated the procedure well. 
Please refer to formal op report in OMR for further intra 
operative details. Patient was successfully extubated in OR and 
transferred to the PACU for further care. Of note, 1 hour post 
op, patient became acutely agitated and tried to leave AMA. 
Please refer to event note in OMR for further details. She did 
not leave AMA and remained in PACU for further post op care. She 
was later transferred to the ___ for close monitoring. On POD1, 
patient's labs and vitals were within normal limits. She was 
tolerating a regular diet, voiding without difficulty, and 
mobilizing independently. She remained Neuro intact and was 
stable to be discharged home on ___. 
 
Medications on Admission:
- atenolol 100 mg tablet, 1 tab PO Daily
- clopidogrel 75 mg tablet, 1 tab PO Daily 
- Adderall 30 mg tablet, 1 tab PO Daily 
- lisinopril 20 mg tablet, 1 tab PO Daily 
- aspirin 325 mg tablet, 1 tab PO Daily 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed 3000mg in 24 hours.  
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*20 Tablet Refills:*0 
3.  Amphetamine-Dextroamphetamine 30 mg PO BID  
4.  Aspirin 325 mg PO DAILY 
It is important that you take this medication as instructed. 
RX *aspirin 325 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*3 
5.  Clopidogrel 75 mg PO/NG DAILY 
It is important that you take this medication as instructed. 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once daily Disp #*30 
Tablet Refills:*3 
6.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Basilar apex aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory, independent.

 
Discharge Instructions:
Care Of The Puncture Site:

- Keep the puncture site clean with water and soap and dry it 
carefully.

- You may cover the puncture site with a Band-Aid if you wish.

Activity:

- You may gradually return to your normal activities, but we 
recommend that you take it easy for the next ___ hours to avoid 
bleeding from the puncture site.

- You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.

- Heavy lifting, running, climbing, and other strenuous exercise 
should be avoided for 10 days. This is to prevent bleeding from 
the puncture site.

- You may take a shower, but do not go swimming or submerge 
yourself in water for 5 days after your procedure.

Medications:

- Resume your normal medications and begin new medications as 
directed.

- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

- You have been instructed to take aspirin and clopidogrel. Do 
not take any other blood thinning medications such as ibuprofen, 
warfarin (Coumadin), etc. until cleared by your neurosurgeon.

What You ___ Experience:

- Mild tenderness and bruising at the puncture site.

- Soreness in your arms from the intravenous lines.

- Mild to moderate headaches that last several days to a few 
weeks.

- Fatigue is very normal.

- Constipation is common. Be sure to drink plenty of fluids and 
eat a high fiber diet. You may also try an over-the-counter 
stool softener if needed.

Call ___ And Go To The Nearest Emergency Department If You 
Experience Any Of The Following:

- Sudden severe headaches with no known reason.

- Sudden dizziness, trouble walking, or loss of balance or 
coordination.

- Sudden confusion or trouble speaking or understanding.

- Sudden weakness or numbness in the face, arms, or legs. 

Please Call Your Neurosurgeon At ___ For:

- Fever greater than 101.4 degrees Fahrenheit.

- Severe pain, redness, swelling, or drainage from the puncture 
site.

- Severe headaches not adequately relieved with prescribed pain 
medications.

- Extreme sleepiness or not being able to stay awake.

- Any new problems with your vision or ability to speak.

- Weakness or changes in sensation in your face, arms, or legs.

- Nausea or vomiting.

- Seizures.

- Blood in your urine or stool.

- Constipation.

 
Followup Instructions:
___